US04169156
A mixture of 0.20 mole of 3,4-dichloro-N-(2-sulfocycloheptyl)aniline and 250 ml. of a 50 percent allylamine in water solution is heated at 125° C. in an autoclave for forty-eight hours. The resulting reaction mixture is washed from the autoclave 1500 ml. solution of methanol. This solution is evaporated until material therefrom oils out as a separate layer. The oil is extracted with 500 ml. of methylene chloride. The organic layer is washed with saturated sodium chloride solution, dried over magnesium sulfate and evaporated to an orange oil. The oil is chromatographed on 600 ml. of silica gel eluting with 2 liters of chloroform and 4 liters of ethyl acetate. The ethyl acetate fraction is separated and evaporated to an oil; the trans-3,4-dichloro-N-[2-(N-allylamino)cycloheptyl]aniline. This amine oil is converted to its hydrochloride salt with excess ether-hydrogen chloride mixture and recrystallized from a mixture of 450 ml. of methanol and about 2000 ml. of ethyl ether to obtain trans-3,4-dichloro-N-[2-(N-allylamino)cycloheptyl]aniline hydrochloride.

reactant | 3,4-dichloro-N-(2-sulfocycloheptyl)aniline | 0.20 mole | ClC=1C=C(NC2C(CCCCC2)S(=O)(=O)O)C=CC1Cl | C13H17Cl2NO3S
reactant | allylamine | C(C=C)N | C3H7N
solvent | water | O | H2O
product | trans-3,4-dichloro-N-[2-(N-allylamino)cycloheptyl]aniline hydrochloride | Cl.ClC=1C=C(N[C@H]2[C@@H](CCCCC2)NCC=C)C=CC1Cl | InChI=1S/C16H22Cl2N2.ClH/c1-2-10-19-15-6-4-3-5-7-16(15)20-12-8-9-13(17)14(18)11-12;/h2,8-9,11,15-16,19-20H,1,3-7,10H2;1H/t15-,16-;/m1./s1
